US07772226B2
(a) t-Butyl 4-[7-(2-butynyl)-2-chloro-1-(3-cyanobenzyl)-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate
100 mg of t-butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate was dissolved in 1.2 ml of N,N-dimethylformamide, and then 97 mg of 3-cyanobenzyl bromide and 68 mg of potassium carbonate were added thereto. The mixture was stirred at room temperature for 12 hours. Then, a saturated ammonium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by silica gel chromatography to give 71 mg of the title compound.

reactant | t-butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 100 mg | C(C#CC)N1C(=NC=2N=C(NC(C12)=O)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23ClN6O3
reactant | 3-cyanobenzyl bromide | 97 mg | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | potassium carbonate | 68 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
product | t-Butyl 4-[7-(2-butynyl)-2-chloro-1-(3-cyanobenzyl)-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 71 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)CC1=CC(=CC=C1)C#N)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C26H28ClN7O3
